US05153210
A solution of 2-(3-chlorophenyl)-2-hydroxyethylamine (0.6 g) and the sodium salt of 4-[4-acetonylphenoxy]-3-hydroxy-1H-pyrrole-2,5-dione(1.0 g) in ethanol, was treated with sodium cyanoborohydride (0.25 g) and stirred at ambient temperature for 18 h. The solvent was evaporated in vacuo, the residue shaken with ethyl acetate and water and filtered. The insoluble material was washed with acetone and crystallised from methanol: water (95:5) to give 4-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxy]-3-hydroxy-1H-pyrrole-2,5-dione, hemihydrate, (0.55 g), as a (27:73)mixture of diastereoisomers.

reactant | 2-(3-chlorophenyl)-2-hydroxyethylamine | 0.6 g | ClC=1C=C(C=CC1)C(CN)O | C8H10ClNO
reactant | sodium | [Na] | Na
reactant | 4-[4-acetonylphenoxy]-3-hydroxy-1H-pyrrole-2,5-dione | 1.0 g | C(C(=O)C)C1=CC=C(OC2=C(C(NC2=O)=O)O)C=C1 | C13H11NO5
reactant | sodium cyanoborohydride | 0.25 g | C(#N)[BH3-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenoxy]-3-hydroxy-1H-pyrrole-2,5-dione, hemihydrate | 0.55 g | O.ClC=1C=C(C(CNC(CC2=CC=C(OC3=C(C(NC3=O)=O)O)C=C2)C)O)C=CC1.ClC=1C=C(C(CNC(CC2=CC=C(OC3=C(C(NC3=O)=O)O)C=C2)C)O)C=CC1 | InChI=1S/2C21H21ClN2O5.H2O/c2*1-12(23-11-17(25)14-3-2-4-15(22)10-14)9-13-5-7-16(8-6-13)29-19-18(26)20(27)24-21(19)28;/h2*2-8,10,12,17,23,25H,9,11H2,1H3,(H2,24,26,27,28);1H2
